US09062070B2
Step D: (3R,9aS)-3-(3-Cyano-4-fluoro-2-methyl-phenyl)-3-hydroxy-hexahydro-pyrazino[2,1-c][1,4]oxazine-8-carboxylic acid tert-butyl ester
Diisopropylethylamine (44.0 mL, 252 mmol) was added to a stirred, room temperature mixture of 72 wt % 3-(2-Bromo-acetyl)-6-fluoro-2-methyl-benzonitrile (69 g, 194 mmol) and (S)-4-N-Boc-2-hydroxymethyl-piperazine (42.0 g, 194 mmol) in THF (1000 mL) and the mixture was stirred at room temperature for 18 h. The reaction was diluted with 1 L EtOAc, washed 2× with 500 mL 10% w/w NaHCO3 aqueous solution, dried over MgSO4, filtered and concentrated. The residue was purified by column chromatography on silica gel (40-80% EtOAc/Hexanes, linear gradient), to give the title compound.

reactant | Diisopropylethylamine | 252 mmol, 44.0 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 3-(2-Bromo-acetyl)-6-fluoro-2-methyl-benzonitrile | 194 mmol, 69 g | BrCC(=O)C=1C(=C(C#N)C(=CC1)F)C | C10H7BrFNO
reactant | (S)-4-N-Boc-2-hydroxymethyl-piperazine | 194 mmol, 42.0 g | C(=O)(OC(C)(C)C)N1C[C@H](NCC1)CO | C10H20N2O3
solvent | THF | 1000 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 1 L | CCOC(=O)C | C4H8O2
product | (3R,9aS)-3-(3-Cyano-4-fluoro-2-methyl-phenyl)-3-hydroxy-hexahydro-pyrazino[2,1-c][1,4]oxazine-8-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@H]2CO[C@](CN2CC1)(O)C1=C(C(=C(C=C1)F)C#N)C | C20H26FN3O4
